US04276417
4.5 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 100 ml. of methylene chloride and 15 ml. of triethylamine. A suspension of 4.5 g. of nicotinoyl chloride hydrochloride in 50 ml. of methylene chloride is slowly added dropwise at 0° C. The dark solution is stirred at 0° C. for 2 hours, then washed twice with water and dried over sodium sulfate. The solvent is distilled off under reduced pressure and the residue is chromatographed over silica gel. The thus-obtained crude product is treated in methylene chloride with hydrochloric acid in dioxan, there being obtained pure N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}nicotinamide dihydrochloride having a melting point of 135°-140° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dioxan | O1CCOCC1 | C4H8O2
product | N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}nicotinamide dihydrochloride | Cl.Cl.C(C=C)N(C1=NC=2N(C(=N1)NC(C1=CN=CC=C1)=O)OC(N2)=O)CC=C | InChI=1S/C16H15N7O3.2ClH/c1-3-8-22(9-4-2)13-19-14(23-15(20-13)21-16(25)26-23)18-12(24)11-6-5-7-17-10-11;;/h3-7,10H,1-2,8-9H2,(H,18,19,20,21,24,25);2*1H
